US06005116
(a) 5-(4-Acetoxyphenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-hydroxyphenyl)isoxazole (0.15 g) was dissolved in tetrahydrofuran (1.5 ml), and triethylamine (0.07 ml) and acetyl chloride (0.04 ml) were added dropwise thereto at 5° C. under a nitrogen atmosphere, followed by stirring of the resulting mixture at room temperature for 30 minutes. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain the title compound (0.12 g, 71%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-hydroxyphenyl)isoxazole | 0.15 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)O | C16H20N2O5
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 5-(4-Acetoxyphenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole | 0.12 g, 71% | C(C)(=O)OC1=CC=C(C=C1)C1=CC(=NO1)OCCNC(=O)OC(C)(C)C | C18H22N2O6
